US05811389
A solution of 158 mg (0.77 mmol) of N,N-dicyclohexylcarbodiimide in methylene chloride was added dropwise to an ice-cooled solution of 3.20 mg (0.695 mmol) of (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)-acetic acid, 90.2 mg (0.84 mmol) of benzyl alcohol and 20 mg of N,N-dimethylaminopyridine in 2.5 ml of methylene chloride. The reaction mixture was stirred at room temperature overnight and filtered. The filter residue was washed with methylene chloride. The combined filtrates were washed with saturated sodium bicarbonate solution, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane (1:4), whereupon, after recrystallization from ethanol and drying, 280 mg (73.3%) of benzyl (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)-acetate were obtained as white crystals of m.p. 131°-132°.

reactant | (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)-acetic acid | 0.695 mmol, 3.20 mg | C(C)(C)(C)OC(=O)C1=C2SC=3C(=C(C=C(C3N(C2=CC=C1OC)C)CN)OC)CC(=O)O | C23H28N2O6S
reactant | benzyl alcohol | 0.84 mmol, 90.2 mg | C(C1=CC=CC=C1)O | C7H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | benzyl (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-10-methyl-phenothiazin-4-yl)-acetate | 280 mg, 73.3% | C(C)(C)(C)OC(=O)C1=C2SC=3C(=C(C=C(C3N(C2=CC=C1OC)C)CN)OC)CC(=O)OCC1=CC=CC=C1 | C30H34N2O6S
